US05369110
A solution of 5.5 g (11.3 mmol) of 4-methoxycarbonyl-4-methyl-pentanoic acid N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amide and 4.9 g (14.2 mmol) of tributyltin azide in 50 ml of o-xylene is reacted and worked up analogously to Example 2 to yield 4-carboxy-4-methyl-pentanoic acid N-butyl-N-[2'-(1H-tetrazol-5-yl)biphenyl4-ylmethyl]-amide in the form of a beige-coloured foam that has an Rf value of 0.34 [toluene/isopropanol/glacial acetic acid (170:30:2)].

reactant | 4-methoxycarbonyl-4-methyl-pentanoic acid N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amide | 11.3 mmol, 5.5 g | C(CCC)N(C(CCC(C)(C)C(=O)OC)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C26H32N2O3
reactant | tributyltin azide | 14.2 mmol, 4.9 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
solvent | o-xylene | 50 ml | CC=1C=CC=CC1C | C8H10
product | 4-carboxy-4-methyl-pentanoic acid N-butyl-N-[2'-(1H-tetrazol-5-yl)biphenyl4-ylmethyl]-amide | C(CCC)N(C(CCC(C)(C)C(=O)O)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C25H31N5O3
